US03954774
To a slurry of 15.0 g (0.395 mole) of LiAlH4 and 500 ml of anhydrous ether in a 5 liter, 3-necked flask fitted with a condenser, mechanical stirrer and dropping funnel was added 20.0 g (0.084 mole) of 4,5-dimethoxy-7-nitrovinylindane dissolved in 2 liters of ether. The addition was made over a period of about 4 hours while refluxing the ether slurry. When the addition was completed, refluxing was continued for an additional 1 to 2 hours. After the addition of 20 g of diatomaceous earth and then 70 ml of water slowly, dropwise, with cooling in an ice bath, the supernatant ether was decanted, the salts were washed with fresh ether several times followed by decantation and finally filtration. The solvent was removed by distillation and more thoroughly on a rotary evaporator. Cooling in an ice bath gave 15.91 g (90 percent) of 4,5-dimethoxy-7-aminoethylindane as a slightly yellow solid, m.p., 45°-48° C. High vacuum distillation gave an analytical sample.

reactant | LiAlH4 | 0.395 mole, 15.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4,5-dimethoxy-7-nitrovinylindane | 0.084 mole, 20.0 g | COC1=C2CCCC2=C(C=C1OC)C=C[N+](=O)[O-] | C13H15NO4
reactant | water | 70 ml | O | H2O
solvent | ether | 2 liters | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
product | 4,5-dimethoxy-7-aminoethylindane | 15.91 g, 90 percent | COC1=C2CCCC2=C(C=C1OC)CCN | C13H19NO2
